US07615562B2
Step A: 2,2,N-Trimethyl-3-thiophen-2-yl-propionamide
A solution of 2,2-dimethyl-3-thiophen-2-yl-propionic acid (315 mg, 1.589 mmol) in 10 ml of dichloromethane was treated successively with HOBt (257 mg, 1.9 mmol), EDC (364 mg, 1.9 mmol) and triethylamine (0.223 ml, 1.6 mmol). The mixture was stirred for 20 minutes, then methylamine (0.621 ml, 8 mmol) was added and stirring was continued for 18 hours. The solvent was then evaporated and the crude was redissolved in ether, washed with 2N-HCl, saturated sodium bicarbonate and brine. Drying over sodium sulfate and evaporation gave a yellow-brown oil which was used without further purification. Yield: 244 mg (78%).

reactant | 2,2-dimethyl-3-thiophen-2-yl-propionic acid | 1.589 mmol, 315 mg | CC(C(=O)O)(CC=1SC=CC1)C | C9H12O2S
reactant | HOBt | 1.9 mmol, 257 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.9 mmol, 364 mg
reactant | triethylamine | 1.6 mmol, 0.223 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine | 8 mmol, 0.621 ml | CN | CH5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,2,N-Trimethyl-3-thiophen-2-yl-propionamide | CC(C(=O)NC)(CC=1SC=CC1)C | C10H15NOS
